US07018988B2
Intermediate 5: 1-tert-butyl 2-methyl (2S,4EZ)-4-(cyanomethylene)-1,2-pyrrolidinedicarboxylate
Diethyl cyanomethyl phosphonate (0.86 ml, 4.4 mmol) was dissolved in dry THF (50 ml) and the solution cooled to 0° C. Sodium hydride (205 mg of a 60% suspension in parrafin oil, 5.1 mmol) was then added cautiously and the reaction stirred for 30 min. The reaction mixture was then cooled to −78° C. and a solution of 1-tert-butyl 2-methyl (2S)-4oxo-1,2-pyrrolidinedicarboxylate (1.0 g, 4.1 mmol) in dry THF (5 ml) was added dropwise. The reaction was then allowed to reach room temperature. Saturated aqueous ammonium chloride solution (15 ml) was then added, followed by ethyl acetate (100 ml). (The organic layer was removed, and the aqueous washed with ethyl acetate (3×5 ml). The combined organic layers were dried with brine and magnesium sulfate before filtering and removal of solvent. Silica gel chromatography, eluting with 35% ethyl acetate in hexanes gave the desired compound (860 mg, 80%) as an off-white wax.

reactant | Diethyl cyanomethyl phosphonate | 4.4 mmol, 0.86 ml | CCOP(=O)(CC#N)OCC | C6H12NO3P
reactant | Sodium hydride | [H-].[Na+]
reactant | 1-tert-butyl 2-methyl (2S)-4oxo-1,2-pyrrolidinedicarboxylate | 4.1 mmol, 1.0 g | O=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H17NO5
reactant | ammonium chloride | 15 ml | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-tert-butyl 2-methyl (2S,4EZ)-4-(cyanomethylene)-1,2-pyrrolidinedicarboxylate | 860 mg, 80% | C(#N)C=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C13H18N2O4
